US08334287B2
4-[2,5-dimethyl-4-m-tolylethynyl-imidazol-1-yl]-1-(2-methoxy-ethyl)-1H-pyridin-2-one
The title compound, light brown solid, MS: m/e=362.3 (M+H+), was prepared in accordance with the general method of example 3 from 4-[2,5-dimethyl-4-m-tolylethynyl-imidazol-1-yl]-1H-pyridin-2-one and 2-bromoethyl-methylether.

reactant | 4-[2,5-dimethyl-4-m-tolylethynyl-imidazol-1-yl]-1H-pyridin-2-one | CC=1N(C(=C(N1)C#CC=1C=C(C=CC1)C)C)C1=CC(NC=C1)=O | C19H17N3O
reactant | 2-bromoethyl-methylether | BrCCOC | C3H7BrO
product | 4-[2,5-dimethyl-4-m-tolylethynyl-imidazol-1-yl]-1-(2-methoxy-ethyl)-1H-pyridin-2-one | CC=1N(C(=C(N1)C#CC=1C=C(C=CC1)C)C)C1=CC(N(C=C1)CCOC)=O | C22H23N3O2
